US07504401B2
A tube was charged with trifluoro-methanesulfonic acid 2-cyano-1H-indol-4-yl ester (0.136 g, 0.469 mmol), 0.150 g (0.61 mmol) bis(pinacolato)diboron, 0.138 g (1.41 mmol) potassium acetate, Pd(dppf)Cl2.CH2Cl2 complex (0.039 g, 0.047 mmol) and 3 mL anhydrous DMSO. The tube was flushed with nitrogen and sealed, and the reaction mixture was heated at 90° C. overnight. The reaction mixture was cooled, filtered through silica gel and the filter cake was washed with ethyl acetate. The filtrate was washed with brine, dried over sodium sulfate and concentrated. The residue was purified by silica gel chromatography to give 0.049 g (39% yield) of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole. This material was protected with triisopropylsilyl chloride to give 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-triisopropylsilanyl-1H-indole using conditions similar to those described in Example 21.

reactant | trifluoro-methanesulfonic acid 2-cyano-1H-indol-4-yl ester | 0.469 mmol, 0.136 g | C(#N)C=1NC2=CC=CC(=C2C1)OS(=O)(=O)C(F)(F)F | C10H5F3N2O3S
reactant | bis(pinacolato)diboron | 0.61 mmol, 0.150 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.41 mmol, 0.138 g | C(C)(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 0.049 g, 39% yield | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
